US08802673B2
To a stirred solution of (RS)-2-(4-bromo-3-fluoro-phenyl)-oxirane (4.69 g) in THF (11 ml) was added 2-aminoethanol (13.2 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was then poured into brine and extracted twice with EtOAc. The combined organic layers was dried over Na2SO4 and concentrated in vacuo to afford (RS)-1-(4-bromo-3-fluoro-phenyl)-2-(2-hydroxy-ethylamino)-ethanol (5.37 g) as a yellow viscous oil which was used in the next step without further purification. MS (ISP): 280.2 ([{81Br}M+H]+), 278.1 ([{79Br}M+H]+).

reactant | (RS)-2-(4-bromo-3-fluoro-phenyl)-oxirane | 4.69 g | BrC1=C(C=C(C=C1)C1OC1)F | C8H6BrFO
reactant | 2-aminoethanol | 13.2 ml | NCCO | C2H7NO
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (RS)-1-(4-bromo-3-fluoro-phenyl)-2-(2-hydroxy-ethylamino)-ethanol | 5.37 g | BrC1=C(C=C(C=C1)C(CNCCO)O)F | C10H13BrFNO2
